* Non-inverting op-amp amplifier, gain = 1 + R2/R1
* E1 models an ideal op-amp using a high-gain dependent source (standard SPICE trick)
V1 IN 0 DC 1
E1 OUT 0 IN N1 1meg
R1 N1 0 1k
R2 N1 OUT 9k
.op
.meas OP vout FIND V(OUT)
.end