* Two-stage RC low pass filter with a buffer between stages (prevents loading)
* E1 is a unity-gain buffer isolating stage 1 from stage 2
V1 IN 0 AC 1
R1 IN N1 10k
C1 N1 0 100n
E1 N2 0 N1 N2 1meg
R2 N2 OUT 10k
C2 OUT 0 100n
.ac dec 20 1 100k
.meas AC f3db WHEN mag(V(OUT))=0.7071
.end