* Voltage follower (unity gain buffer), output should exactly equal input
* E1 models an ideal op-amp using a high-gain dependent source (standard SPICE trick)
V1 IN 0 DC 3
E1 OUT 0 IN OUT 1meg
.op
.meas OP vout FIND V(OUT)
.end