* Balanced Wheatstone bridge, output voltage should be 0V since all resistors are equal
V1 A 0 DC 10
R1 A B 1k
R2 B 0 1k
R3 A C 1k
R4 C 0 1k
.op
.meas OP vout FIND V(B)-V(C)
.end